US08536179B2
N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-isopropyl-3-methyl-6-(6-(4-methylpiperazin-1-yl)pyridin-3-yl)-1H-indole-4-carboxamide
To a stirred solution of 6-bromo-N-((1,2-dihydro-4,6-dimethyl-2-oxopyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide (2 g, 4.65 mmol) in DMF (100 mL) was added 1-methyl-4-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine (1.55 g, 5.12 mmol) followed by a solution of sodium carbonate (1.23 g, 11.62 mmol) in water (10 mL) and the contents were degassed with argon for 30 min. After that PdCl2(PPh3)2 (326 mg, 0.464 mmol) was added and the contents again degassed with argon for 10 min. The reaction mixture was stirred at reflux for 3 h. The reaction mixture was diluted with water (100 mL) and extracted with ethyl acetate (3×150 mL). The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated to afford the crude product (2.8 g). The crude compound was purified by column chromatography over silica gel (100-200 mesh, eluent: 0-10% MeOH: DCM), and the obtained product was further triturated with diethyl ether (100 mL) to afford the title compound as an off white solid (1.2 g, 50%). 1H NMR (DMSO-d6, 400 MHz): δ 1.493 (d, J=6.4 Hz, 6H), 2.092 (s, 3H), 2.286 (s, 3H), 2.409 (s, 3H), 2.424 (s, 3H), 2.632 (s, 4H), 3.621 (s, 4H), 4.603-4.685 (m, 3H), 5.880 (s, 1H), 6.606 (d, J=8.8 Hz, 1H), 7.016 (s, 1H), 7.261 (s, 1H), 7.433 (s, 1H), 7.675-7.704 (dd, J=9 Hz, 2.4 Hz, 1H), 8.425 (d, J=2.0 Hz, 1H), 11.699 (brs, 1H); LCMS (ES+): 525.23 [M−H].

reactant | 6-bromo-N-((1,2-dihydro-4,6-dimethyl-2-oxopyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide | 4.65 mmol, 2 g | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)NCC=1C(NC(=CC1C)C)=O | C21H24BrN3O2
reactant | 1-methyl-4-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine | 5.12 mmol, 1.55 g | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
reactant | sodium carbonate | 11.62 mmol, 1.23 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
catalyst | PdCl2(PPh3)2 | 0.464 mmol, 326 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-isopropyl-3-methyl-6-(6-(4-methylpiperazin-1-yl)pyridin-3-yl)-1H-indole-4-carboxamide | CC1=C(C(NC(=C1)C)=O)CNC(=O)C=1C=2C(=CN(C2C=C(C1)C=1C=NC(=CC1)N1CCN(CC1)C)C(C)C)C | C31H38N6O2
